US08357635B2
To a stirred solution of trans 1-[2-(5-Chloro-thiophen-2-yl)cyclopropyl]-ethanone O-methyl-oxime (1.2 g; 5.2 mmol) prepared as described in example P25, in acetic acid (15 ml) at ambient temperature was added portionwise sodium cyanoborohydride (1.0 g; 15.7 mmol). The reaction mixture was stirred for 16 hours at ambient temperature then poured on sodium hydroxide solution (0.5M; 150 ml) and extracted with dichloromethane (3×50 ml). Combined organic layers were dried over anhydrous sodium sulphate. The solvent was removed in vacuo and the residue was purified by flash chromatography over silica gel (elution gradient: cyclohexane/ethyl acetate 99:1 to 50:50) to afford 0.91 g (79% of theory) of trans N-{1-[2-(5-chloro-thiophen-2-yl)-cyclopropyl]-ethyl}-O-methyl-hydroxylamine as a mixture of diastereomeres in form of a clear viscous oil.

reactant | trans 1-[2-(5-Chloro-thiophen-2-yl)cyclopropyl]-ethanone O-methyl-oxime | 5.2 mmol, 1.2 g | CON=C(C)[C@H]1[C@@H](C1)C=1SC(=CC1)Cl | C10H12ClNOS
reactant | sodium cyanoborohydride | 15.7 mmol, 1.0 g | C(#N)[BH3-].[Na+]
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | trans N-{1-[2-(5-chloro-thiophen-2-yl)-cyclopropyl]-ethyl}-O-methyl-hydroxylamine | 0.91 g, 79% | ClC1=CC=C(S1)[C@H]1[C@@H](C1)C(C)NOC | C10H14ClNOS
